** sch_path: /foss/designs/power_mosfet/dos/DCDCBuck_vto1p1.sch
.subckt DCDCBuck_vto1p1 Vs Vg1 Vg2 Vo
*.PININFO Vs:B Vg1:B Vg2:B Vo:B
MM2 Vo Vg2 Vs Vs sg13_hv_nmos w=10u l=0.45u ng=1 m=1
MM1 Vo Vg1 Vs Vs sg13_hv_nmos w=10u l=0.45u ng=1 m=1
.ends
